US08404694B2
A mixture of 2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ol (0.400 g, 2.28 mmol) and phosphorous oxychloride (4.26 ml, 45.7 mmol) in a resealable tube was heated to 100° C. After 4 hrs the solution was cooled to RT and slowly poured onto ice. The mixture was made basic using 2 N NaOH and saturated NaHCO3 and extracted with EtOAc. The combined organic fractions were washed with brine and dried with sodium sulfate. The organic phase solution was passed over a plug of silica gel and concentrated in vacuo to afford 7-chloro-2-cyclopropylpyrazolo[1,5-a]pyrimidine as a brown oil that was advanced without further purification. MS: Found M+H+=194.1.

reactant | 2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ol | 2.28 mmol, 0.400 g | C1(CC1)C1=NN2C(N=CC=C2O)=C1 | C9H9N3O
reactant | phosphorous oxychloride | 45.7 mmol, 4.26 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 7-chloro-2-cyclopropylpyrazolo[1,5-a]pyrimidine | ClC1=CC=NC=2N1N=C(C2)C2CC2 | C9H8ClN3
